US04025630
5,5-Dimethyl-8-(4-fluorophenyl-1-methylbutyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-10-[4-(thiomorpholino)butyryloxy]-5H[1] benzopyrano[3,4-d]pyridine hydrobromide
Equimolar amounts of 5,5-dimethyl-10-hydroxy-8-(4-fluorophenyl-1-methylbutyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine, γ-thiomorpholinobutyric acid hydrobromide and dicyclohexylcarbodiimide are reacted to form the desired product.

reactant | 5,5-dimethyl-10-hydroxy-8-(4-fluorophenyl-1-methylbutyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-5H[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(CCC)(C)C2=CC=C(C=C2)F)O)C2=C1CCN(C2)CC#C)C | C28H32FNO2
reactant | γ-thiomorpholinobutyric acid hydrobromide | Br.S1CCN(CC1)CCCC(=O)O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 5,5-Dimethyl-8-(4-fluorophenyl-1-methylbutyl)-2-(2-propynyl)-1,2,3,4-tetrahydro-10-[4-(thiomorpholino)butyryloxy]-5H[1] benzopyrano[3,4-d]pyridine hydrobromide | Br.CC1(OC2=C(C(=CC(=C2)C(CCC)(C)C2=CC=C(C=C2)F)OC(CCCN2CCSCC2)=O)C2=C1CCN(C2)CC#C)C | InChI=1S/C36H45FN2O3S.BrH/c1-6-15-36(5,26-10-12-28(37)13-11-26)27-23-31(41-33(40)9-8-17-38-19-21-43-22-20-38)34-29-25-39(16-7-2)18-14-30(29)35(3,4)42-32(34)24-27;/h2,10-13,23-24H,6,8-9,14-22,25H2,1,3-5H3;1H
